US08378102B2
mCPBA (5.50 g of 77% purity, 24.6 mmol) was added to a solution of acetone O-(7-bromo[1,3]thiazolo[4,5-c]quinolin-2-ylmethyl)oxime (3.44 g, 9.82 mmol) in chloroform (100 mL), and the reaction was stirred for 1.5 hours at room temperature and subsequently washed with aqueous sodium carbonate (100 mL of 10% w/w). The organic layer was dried over magnesium sulfate and filtered to provide a solution of acetone O-(7-bromo-5-oxido[1,3]thiazolo[4,5-c]quinolin-2-ylmethyl)oxime in chloroform.

reactant | mCPBA | 24.6 mmol, 5.50 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | acetone O-(7-bromo[1,3]thiazolo[4,5-c]quinolin-2-ylmethyl)oxime | 9.82 mmol, 3.44 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(S3)CON=C(C)C | C14H12BrN3OS
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | acetone O-(7-bromo-5-oxido[1,3]thiazolo[4,5-c]quinolin-2-ylmethyl)oxime | BrC=1C=CC=2C3=C(C=[N+](C2C1)[O-])N=C(S3)CON=C(C)C | C14H12BrN3O2S
